US09233958B2
(2S)-2-(4-Methoxyphenoxy)butanamide
Sodium hydride (3.21 g, ca. 60% in oil, 80.6 mmol) was added to a 1,4-dioxane (100 mL) solution of 4-methoxyphenol (2.50 g, 20.1 mmol) at room temperature, and the mixture was stirred at room temperature for 10 minutes. (2S)-2-Chlorobutyric acid (2.95 g, 24.2 mmol) was added to the mixture at 100° C., and then the resulting mixture was heated at 100° C. for 30 minutes. After the reaction mixture was cooled to room temperature, water and 2 M hydrochloric acid were added to the reaction mixture. The resulting mixture was extracted three times with ethyl acetate, and the organic layer thus obtained was washed with water, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and thus a mixture containing (2S)-2-(4-methoxyphenoxy)butyric acid was obtained. Carbonyldiimidazole (4.89 g, 30.2 mmol) was added to a tetrahydrofuran (100 mL) solution of the mixture described above, and the resulting mixture was stirred at room temperature for 30 minutes. Subsequently, a 28% aqueous ammonia solution (50 mL, excess amount) was added to the mixture at room temperature, and the resulting mixture was stirred for 20 minutes. Water was added to the reaction mixture, and the resulting mixture was extracted three times with ethyl acetate. The organic layer thus obtained was washed with water, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-41:4, v/v) to give the title compound (3.66 g, yield: 87%).

reactant | Sodium hydride | 80.6 mmol, 3.21 g | [H-].[Na+]
reactant | 4-methoxyphenol | 20.1 mmol, 2.50 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | (2S)-2-Chlorobutyric acid | 24.2 mmol, 2.95 g | Cl[C@H](C(=O)O)CC | C4H7ClO2
reactant | hydrochloric acid | 2 M | Cl | ClH
reactant | Carbonyldiimidazole | 30.2 mmol, 4.89 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 50 mL | N | H3N
solvent | Water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | (2S)-2-(4-Methoxyphenoxy)butanamide | 3.66 g, yield: 87% | COC1=CC=C(O[C@H](C(=O)N)CC)C=C1 | C11H15NO3
